US07842685B2
To (methoxymethyl)triphenylphosphonium chloride (1.0 g, 2.93 mmol) was added THF (26 mLl) before it was cooled to 0° C.; butyllithium (2.5 M in hexanes, 1.28 ml, 3.20 mmol) was then added and stirred for 15 min before 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde (1.00 g, 2.67 mmol) in THF (26 ml) was added to the reaction mixture. The reaction mixture was allowed to warm to ambient temperature and stir for 1 h to give 2-(2-fluoro-4-(2-methoxyvinyl)phenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine after flash chromatography. MS (ESI) m/z: Calculated: 402.1; Observed: 403.1 (M++H).

reactant | (methoxymethyl)triphenylphosphonium chloride | 2.93 mmol, 1.0 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | butyllithium | 3.20 mmol, 2.5 M, 1.28 ml | C(CCC)[Li]
reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde | 2.67 mmol, 1.00 g | FC=1C=C(C=O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2OS
solvent | THF | 26 ml | C1CCOC1 | C4H8O
product | 2-(2-fluoro-4-(2-methoxyvinyl)phenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | FC1=C(C=CC(=C1)C=COC)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C24H19FN2OS
